// Point Netlist Generated on: Feb 18 11:21:10 2024
// Generated for: spectre
// Design Netlist Generated on: Feb 18 11:21:05 2024
// Design library name: CHARACTERIZATION
// Design cell name: DC_BIAS_NMOS_L
// Design view name: schematic
simulator lang=spectre
global 0
parameters temperature=27 L1=1u NF1=1 VDS=0.25 VGS=1 WF1=10u
include "/home/saul/pkg/xfab/XKIT/xh018/cadence/v9_0/spectre/v9_0_2/lpmos/config.scs" section=default
include "/home/saul/pkg/xfab/XKIT/xh018/cadence/v9_0/spectre/v9_0_2/lpmos/param.scs" section=3s
include "/home/saul/pkg/xfab/XKIT/xh018/cadence/v9_0/spectre/v9_0_2/lpmos/bip.scs" section=tm
include "/home/saul/pkg/xfab/XKIT/xh018/cadence/v9_0/spectre/v9_0_2/lpmos/cap.scs" section=tm
include "/home/saul/pkg/xfab/XKIT/xh018/cadence/v9_0/spectre/v9_0_2/lpmos/dio.scs" section=tm
include "/home/saul/pkg/xfab/XKIT/xh018/cadence/v9_0/spectre/v9_0_2/lpmos/mos.scs" section=tm
include "/home/saul/pkg/xfab/XKIT/xh018/cadence/v9_0/spectre/v9_0_2/lpmos/photo.scs" section=tm
include "/home/saul/pkg/xfab/XKIT/xh018/cadence/v9_0/spectre/v9_0_2/lpmos/res.scs" section=tm

// Library name: CHARACTERIZATION
// Cell name: DC_BIAS_NMOS_L
// View name: schematic
V1 (net3 0) vsource dc=VDS type=dc
V0 (net2 0) vsource dc=VGS type=dc
M0 (net3 net2 0 0) nel w=WF1 l=L1 as=(int(((NF1)-1)/2.0 )*5.4e-07+((int((NF1)/2.0)-(NF1)/2.0<-0.1)?1:2)*4.8e-07)*(WF1)/(NF1) \
         ad=(int((NF1)/2.0 )*5.4e-07+(((int((NF1)/2.0)-(NF1)/2.0<-0.1)?1:0)*4.8e-07))*(WF1)/(NF1) \
         ps=(int(((NF1)-1)/2.0 )*2*(5.4e-07+(WF1))+((int((NF1)/2)-(NF1)/2.0<-0.1)?1:2)*2*(4.8e-07+(WF1)))/(NF1) \
         pd=(int((NF1)/2.0 )*2*(5.4e-07+(WF1))+((int((NF1)/2.0)-(NF1)/2.0<-0.1)?1:0)*2*(4.8e-07+(WF1)))/(NF1) \
         nrs=2.7e-07/(WF1) nrd=2.7e-07/(WF1) m=(1)*(NF1) par1=(1)*(NF1) \
        xf_subext=0
simulatorOptions options psfversion="1.4.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
dc dc param=VGS start=0 stop=1.8 step=0.05 write="spectre.dc" \
    oppoint=rawfile maxiters=150 maxsteps=10000 annotate=status 
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save M0:1 
saveOptions options save=allpub
